US05089504
To a solution of 3-isobutyryl-4-(2-methylphenylamino)-8-hydroxyquinoline (5 g, 15.6 mmol) in dry tetrahydrofuran (250 ml) was added potassium t-butoxide (2.63 g, 23.4 mmol), followed by 2-bromoethanol (3.9 g, 31.2 mmol). The stirred mixture was heated under reflux for 16 hours, then a further quantity of potassium t-butoxide (2.63 g, 23.4 mmol) and 2-bromoethanol (3.9 g, 31.2 mmol) added, and heating continued for 2 days. The solvent was evaporated, and the residue treated with aqueous sodium bicarbonate and extracted into dichloromethane. The extracts were dried and evaporated to an oil, which was purified by flash chromatography (silica gel, dichloromethane/methanol) and recrystallization from 40-60 petroleum ether to yield 3-isobutyryl-4-(2-methylphenylamino)-8-(2-hydroxyethoxy)-quinoline (2.25 g), m.p. 154°-156°.

reactant | 3-isobutyryl-4-(2-methylphenylamino)-8-hydroxyquinoline | 15.6 mmol, 5 g | C(C(C)C)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)O | C20H20N2O2
reactant | potassium t-butoxide | 23.4 mmol, 2.63 g | CC(C)([O-])C.[K+]
reactant | 2-bromoethanol | 31.2 mmol, 3.9 g | BrCCO | C2H5BrO
reactant | potassium t-butoxide | 23.4 mmol, 2.63 g | CC(C)([O-])C.[K+]
reactant | 2-bromoethanol | 31.2 mmol, 3.9 g | BrCCO | C2H5BrO
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 3-isobutyryl-4-(2-methylphenylamino)-8-(2-hydroxyethoxy)-quinoline | 2.25 g | C(C(C)C)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCO | C22H24N2O3
